US04876269
Step 4: Trans-3,4-Dichloro-N-methyl-N-[3-(pyrrolidin-1-yl)-1,2,3,4-tetrahydronaphthalen-2-yl)benzeneacetamide
3,4-Dichlorophenylacetic acid (1.05 g) and carbonyldiimidazole (856 mg) were dissolved in dry THF (20 ml). This solution was cannulated into a stirred suspension of the above product (1.0 g) in methylene chloride (20 ml) at 0°. The mixture was allowed to warm to room temperature and stirred overnight. Water (50 ml) and methylene chloride (100 ml) were added and the organic layer was separated, washed with brine, dried, and evaporated to give a crude product which was chromatographed (silica gel; CH2Cl2 : CH3OH=40:1) to yield the pure free base of the title compound (1.2 g). Its naphthalenesulfonate was recrystallized from ethyl acetate: 2-propanol; m.p. 161°-164°.

reactant | 3,4-Dichlorophenylacetic acid | 1.05 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | carbonyldiimidazole | 856 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Water | 50 ml | O | H2O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Trans-3,4-Dichloro-N-methyl-N-[3-(pyrrolidin-1-yl)-1,2,3,4-tetrahydronaphthalen-2-yl)benzeneacetamide | 1.2 g | ClC=1C=C(C=CC1Cl)CC(=O)N([C@@H]1CC2=CC=CC=C2C[C@H]1N1CCCC1)C | C23H26Cl2N2O
